US08802670B2
2,4-Dichlorofuro[3,2-d]pyrimidine (23 mg, 1.0 eq) was suspended in methanol (1.7 ml) and treated with morpholine (0.09 ml, 4.0 eq). Reaction mixture was stirred at room temperature for 2 h, before being quenched with saturated aq. NaHCO3. Mixture was extracted with dichloromethane. The combined organic layers were dried (Na2SO4) and concentrated to yield 2-chloro-4-morpholinofuro[3,2-d]pyrimidine (14 mg, 48%) which was used in the next reaction without further purification.

reactant | 2,4-Dichlorofuro[3,2-d]pyrimidine | 23 mg, 1.0 eq | ClC=1N=C(C2=C(N1)C=CO2)Cl | C6H2Cl2N2O
reactant | morpholine | 0.09 ml, 4.0 eq | N1CCOCC1 | C4H9NO
solvent | methanol | 1.7 ml | CO | CH4O
product | 2-chloro-4-morpholinofuro[3,2-d]pyrimidine | 14 mg, 48% | ClC=1N=C(C2=C(N1)C=CO2)N2CCOCC2 | C10H10ClN3O2
